US06284894B1
To a solution of t-butylnitrite (84.6 ml, 0.71 mol) and allylbromide (530 ml, 6.15 mol) in 25 ml CH3CN, 3,5-dinitroaniline (75 g, 0.41 mol) was added spoonwise, so that the temperature was maintained between 11 and 15° C. During the addition of the final ½ of 3,5-dinitroaniline, more t-butylnitrite (21 ml, 0.18 mol) was added. The reaction mixture was then stirred at room temperature for 1 h. Excess t-butylnitrite, allylbromide and CH3CN was distilled from the reaction mixture at reduced pressure and the residue was dissolved in toluene (500 ml). The solution was filtered through two Al2O3 pads. The toluene was distilled off at reduced pressure and to the remaining residue 3,3,5-trimethylpentane (200 ml) was added. The mixture was heated to 60° C. and stirred for ½ h and then cooled to −60° C. The pentane phase was decanted and the mixture was crystallized from 2,2,4-trimethylpentane at −50° C. The crystals were then triturated twice with 2,2,4-trimethylpentane at −50° C. The remaining pentane was then removed at reduced pressure, to give 78.7 g (93%) of 3,5-dinitroallylbenzene as yellow oil containing approximately 4% of 3,5-dinitrobromo benzene.

reactant | t-butylnitrite | 0.71 mol, 84.6 ml | C(C)(C)(C)ON=O | C4H9NO2
reactant | allylbromide | 6.15 mol, 530 ml | C(C=C)Br | C3H5Br
reactant | 3,5-dinitroaniline | 0.41 mol, 75 g | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
reactant | t-butylnitrite | 0.18 mol, 21 ml | C(C)(C)(C)ON=O | C4H9NO2
solvent | CH3CN | 25 ml | CC#N | C2H3N
product | 3,5-dinitroallylbenzene | 78.7 g, 93% | [N+](=O)([O-])C=CCC1=CC=CC(=C1)[N+](=O)[O-] | C9H8N2O4
